US08138189B2
Step 3: 3′-Chloro-4′-[2-(5-cyano-4-methyl-thiophen-2-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-3-fluoro-biphenyl-4-carboxylic acid
The compound was prepared in analogy to Example 60, step 2, from 5-[2-(4-bromo-2-chloro-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-3-methyl-thiophene-2-carbonitrile and 3-fluoro-4-methoxycarbonylphenylboronic acid (CAS Reg. No. 505083-04-5). The resulting ester was hydrolyzed by addition of aqueous LiOH solution (1N) to the reaction mixture. Light yellow solid. MS (m/e, ISP neg. ion)=496.3 [M−H+].

reactant | 5-[2-(4-bromo-2-chloro-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-3-methyl-thiophene-2-carbonitrile | BrC1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CC(=C(S1)C#N)C)C)Cl | C16H12BrClF3NOS
reactant | 3-fluoro-4-methoxycarbonylphenylboronic acid | FC=1C=C(C=CC1C(=O)OC)B(O)O | C8H8BFO4
reactant | LiOH | 1N | [Li+].[OH-]
product | 3′-Chloro-4′-[2-(5-cyano-4-methyl-thiophen-2-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-3-fluoro-biphenyl-4-carboxylic acid | ClC=1C=C(C=CC1C(C(C(F)(F)F)(O)C=1SC(=C(C1)C)C#N)C)C1=CC(=C(C=C1)C(=O)O)F | C23H16ClF4NO3S
